US06949571B2
3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-cyanomethylphenyl)-1,2-dihydropyridin-2-one
3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-hydroxyphenyl)-1,2-dihydropyridin-2-one (53 mg) was dissolved in 2 ml of tetrahydrofuran, then 60 ml of triethylamine and 20 ml of methanesulfonyl chloride were added thereto with ice cooling and the mixture was stirred at room temperature for 3 hours. The reaction solution was diluted with an aqueous solution of sodium bicarbonate and extracted with ethyl acetate and the extract was dried over anhydrous magnesium sulfate. The drying agent was filtered off, the filtrate was concentrated in vacuo, the resulting residue was dissolved in 1 ml of dimethyl sulfoxide, 3 mg of sodium cyanide were added and the mixture was stirred at room temperature for 1 hour. The reaction solution was diluted with ethyl acetate, washed with an aqueous solution of sodium bicarbonate and a saturated saline solution and dried over anhydrous magnesium sulfate. The drying agent was filtered off, the filtrate was concentrated in vacuo and the resulting crude crystals were recrystallized from ethyl acetate-diethyl ether-hexane to give 12 mg of the title compound.

reactant | 3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-hydroxyphenyl)-1,2-dihydropyridin-2-one | 53 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)O)=O | C23H15N3O2
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 20 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-(2-Cyanophenyl)-5-(2-pyridyl)-1-(3-cyanomethylphenyl)-1,2-dihydropyridin-2-one | 12 mg | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC(=CC=C1)CC#N)=O | C25H16N4O
